US06794397B2
2-Chloro-N-(4-methoxy-2-nitrophenyl)-3-pyridinecarboxamide
The title compound was prepared from 2-chloronicotinoyl chloride and 4-methoxy-2-nitroaniline and was obtained as a yellow solid as described in Example 1. 1H NMR (CDCl3): 10.76 (s, 1H), 8.78 (d, J=9.3, 1H), 8.58-8.55 (m, 1H), 8.13-8.09 (m, 1H), 7.73 (d, J=3.0, 1H), 7.45-7.40 (m, 1H), 7.34-7.28 (m, 1H0, 3.90 (s, 3H).

reactant | 2-chloronicotinoyl chloride | ClC1=C(C(=O)Cl)C=CC=N1 | C6H3Cl2NO
reactant | 4-methoxy-2-nitroaniline | COC1=CC(=C(N)C=C1)[N+](=O)[O-] | C7H8N2O3
product | 2-Chloro-N-(4-methoxy-2-nitrophenyl)-3-pyridinecarboxamide | ClC1=NC=CC=C1C(=O)NC1=C(C=C(C=C1)OC)[N+](=O)[O-] | C13H10ClN3O4
